US05130119
(e) 2-Benzyloxy-5-fluoro-3-(2,2,2-trifluoroethylcarbamoyl)-benzoic acid
10.78 g (27 mmol) of 2-benzyloxy-5-fluoro-(2,2,2-trifluoroethylcarbamoyl)-benzoic acid ethyl ester is dissolved in 60 ml of dioxane, the solution is mixed with 17.5 ml (35 mmol) of 2N sodium hydroxide solution, stirred for 1 hour at room temperature and 1 hour at 40° C. The reaction mixture is concentrated by evaporation under reduced pressure, the residue is taken up in 80 ml of water, acidified to pH 1 with concentrated hydrochloric acid. In this case, the acid precipitates mostly at amorphous solid. It is suctioned off and washed with a little water. The aqueous phase is shaken out several times with ethyl acetate. The ethyl acetate extract is concentrated by evaporation and the residue is combined with the precipitate from the water. It is dried in a vacuum for 48 hours at 50° C. Yield: 8.38 g (22.57 mmol) =83.6% of the theoretical yield is obtained as an amorphous solid.

reactant | 2-benzyloxy-5-fluoro-(2,2,2-trifluoroethylcarbamoyl)-benzoic acid ethyl ester | 27 mmol, 10.78 g | C(C)OC(C1=C(C(=CC(=C1)F)C(NCC(F)(F)F)=O)OCC1=CC=CC=C1)=O | C19H17F4NO4
reactant | sodium hydroxide | 35 mmol, 2N, 17.5 ml | [OH-].[Na+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 2-Benzyloxy-5-fluoro-3-(2,2,2-trifluoroethylcarbamoyl)-benzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1C(NCC(F)(F)F)=O)F | C17H13F4NO4
